US09447106B2
A mixture of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (220 mg, 0.75 mmol), methyl 2-chloro-5-nitrobenzoate (160 mg, 0.75 mmol) and K2CO3 (155 mg, 1.13 mmol) in DMF (10 mL) was heated to 80° C. for 16 hr under N2. The reaction was poured into water (30 ml), and extracted with ethyl acetate (20 mL×3). The combined organic layers were dried over Na2SO4, concentrated under reduced pressure to a residue, which was purified by a silica gel column eluting with 10% to 50% EA in PE to afford 85 mg (27.3%) of 7-nitro-5-oxo-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxamide as a yellow solid. MS (ESI, m/e) [M+1]+ 442.1.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 0.75 mmol, 220 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C16H14N4O2
reactant | methyl 2-chloro-5-nitrobenzoate | 0.75 mmol, 160 mg | ClC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | K2CO3 | 1.13 mmol, 155 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 30 ml | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 7-nitro-5-oxo-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxamide | 85 mg, 27.3% | [N+](=O)([O-])C=1C=C2C(NC=3N(C2=CC1)N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)=O | C23H15N5O5
